********************************************************************************
* SPICE netlist generated by Tanner Verify's NetList Extractor
*
* Extract Date/Time:	Sat May 29 02:09:29 2021
* L-Edit Version:		L-Edit Win64 2019.2.20190514.21:14:33
*
* Rule Set Name:		
* TDB File Name:		C:\Users\Mobin\Desktop\example\G_Function.tdb
* PX Command File:	
* Command File:		C:\Users\Mobin\Desktop\example\MHP_NS8.EXT
* Cell Name:			G_Function
* Write Flat:			NO
********************************************************************************
.include 'mosistsmc180.lib'

*.model NMOS
*.model PMOS

****************************************
.param SUPPLY=1.8

*Voltage Sources 
VDD  VDD GND 'SUPPLY'
VG3  G3  GND PULSE 0 'SUPPLY' 10NS 100PS 100PS 10NS 20NS   *input line: square wave, amp. rise t, fall t, on t, period 
VP3  P3  GND PULSE 0 'SUPPLY' 20NS 100PS 100PS 20NS 40NS   *input line: square wave, amp. rise t, fall t, on t, period
VG2  G2  GND PULSE 0 'SUPPLY' 25NS 100PS 100PS 30NS 60NS   *input line: square wave, amp. rise t, fall t, on t, period
VP2  P2  GND PULSE 0 'SUPPLY' 30NS 100PS 100PS 40NS 80NS   *input line: square wave, amp. rise t, fall t, on t, period
VG1  G1  GND PULSE 0 'SUPPLY' 15NS 100PS 100PS 45NS 90NS   *input line: square wave, amp. rise t, fall t, on t, period
VP1  P1  GND PULSE 0 'SUPPLY' 35NS 100PS 100PS 55NS 100NS  *input line: square wave, amp. rise t, fall t, on t, period
VG0  G0  GND PULSE 0 'SUPPLY' 40NS 100PS 100PS 55NS 110NS  *input line: square wave, amp. rise t, fall t, on t, period


M1 GND G3 1 GND 	 NMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=3.24e-12 pd=3.6e-06 ps=7.2e-06  $ (1.5 7.2 2.1 9)
M2 2 P3 GND GND 	 NMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=1.62e-12 pd=3.6e-06 ps=3.6e-06  $ (3.9 7.2 4.5 9)
M3 3 P2 2 GND 		 NMOS l=6e-07 w=1.8e-06 ad=4.86e-12 as=1.62e-12 pd=7.2e-06 ps=3.6e-06  $ (6.3 7.2 6.9 9)
M4 4 P1 3 GND 		 NMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=4.86e-12 pd=3.6e-06 ps=7.2e-06  $ (12.3 7.2 12.9 9)
M5 1 G0 4 GND 		 NMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=1.62e-12 pd=3.6e-06 ps=3.6e-06  $ (14.7 7.2 15.3 9)
M6 3 G1 1 GND 		 NMOS l=6e-07 w=1.8e-06 ad=3.24e-12 as=1.62e-12 pd=7.2e-06 ps=3.6e-06  $ (17.1 7.2 17.7 9)
M7 1 G2 2 GND 		 NMOS l=6e-07 w=1.8e-06 ad=3.24e-12 as=3.24e-12 pd=7.2e-06 ps=7.2e-06  $ (22.2 7.2 22.8 9)
M8 OUTPUT 1 GND GND  NMOS l=6e-07 w=1.8e-06 ad=5.4e-12 as=5.4e-12 pd=9.6e-06 ps=9.6e-06  $ (33.9 4.5 34.5 6.3)
M9 5 G3 1 VDD 	 	 PMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=3.24e-12 pd=3.6e-06 ps=7.2e-06  $ (1.5 15.9 2.1 17.7)
M10 VDD P3 5 VDD 	 PMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=1.62e-12 pd=3.6e-06 ps=3.6e-06  $ (3.9 15.9 4.5 17.7)
M11 6 P2 VDD VDD 	 PMOS l=6e-07 w=1.8e-06 ad=3.24e-12 as=1.62e-12 pd=7.2e-06 ps=3.6e-06  $ (6.3 15.9 6.9 17.7)
M12 VDD P1 7 VDD 	 PMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=3.24e-12 pd=3.6e-06 ps=7.2e-06  $ (12.3 15.9 12.9 17.7)
M13 7 G0 VDD VDD  	 PMOS l=6e-07 w=1.8e-06 ad=1.62e-12 as=1.62e-12 pd=3.6e-06 ps=3.6e-06  $ (14.7 15.9 15.3 17.7)
M14 6 G1 7 VDD 		 PMOS l=6e-07 w=1.8e-06 ad=4.05e-12 as=1.62e-12 pd=6.3e-06 ps=3.6e-06  $ (17.1 15.9 17.7 17.7)
M15 5 G2 6 VDD 		 PMOS l=6e-07 w=1.8e-06 ad=3.24e-12 as=4.05e-12 pd=7.2e-06 ps=6.3e-06  $ (22.2 15.9 22.8 17.7)
M16 OUTPUT 1 VDD VDD PMOS l=6e-07 w=1.8e-06 ad=5.4e-12 as=5.4e-12 pd=9.6e-06 ps=9.6e-06  $ (33.9 15.9 34.5 17.7)


* Top level device count
* M(NMOS)		8
* M(PMOS)		8
* Number of devices:	16
* Number of nodes:	17

*Output capacitor with size C=60fF
CLoud OUTPUT GND 60fF  

*extra control information--------------------- 
.options post=2 nomod 
.op 
*analysis-------------------------------------- 
.TRAN 20ps 120ns * transient analysis: Step end_time 



